US04232037
Example 2. 3-Chloro-2,6-dimethoxybenzoic acid
A solution of 16.2 ml (0.2 mol) of sulphuryl chloride in 100 ml of chloroform is added dropwise while stirring to a solution of 36.4 g (0.2 mol) of 2,6-dimethoxybenzoic acid in 300 ml of chloroform. The mixture is heated for 0.5 h at 50° C. and left overnight at room temperature. The solvent is evaporated and the residue recrystallized from isopropyl ether--light petroleum. Yield: 35.4 g, m.p. 132°-33° C.

reactant | sulphuryl chloride | 0.2 mol, 16.2 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2,6-dimethoxybenzoic acid | 0.2 mol, 36.4 g | COC1=C(C(=O)O)C(=CC=C1)OC | C9H10O4
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Chloro-2,6-dimethoxybenzoic acid | ClC=1C(=C(C(=O)O)C(=CC1)OC)OC | C9H9ClO4
